**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-PDF
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt 1045_7447797022_0.22u 1 2
Rp 1 2 335.63
Cp 1 2 1.51p
Rs 1 N3 0.0029
L1 N3 2 0.0878u
.ends 1045_7447797022_0.22u
*******
.subckt 1045_7447797050_0.5u 1 2
Rp 1 2 757.376
Cp 1 2 2.506p
Rs 1 N3 0.0043
L1 N3 2 0.218u
.ends 1045_7447797050_0.5u
*******
.subckt 1045_7447797110_1.1u 1 2
Rp 1 2 1278
Cp 1 2 2.858p
Rs 1 N3 0.0059
L1 N3 2 0.422u
.ends 1045_7447797110_1.1u
*******
.subckt 1045_7447797180_1.8u 1 2
Rp 1 2 1875
Cp 1 2 3.694p
Rs 1 N3 0.0074
L1 N3 2 0.692u
.ends 1045_7447797180_1.8u
*******
.subckt 1045_7447797250_2.5u 1 2
Rp 1 2 2698
Cp 1 2 4.424p
Rs 1 N3 0.009
L1 N3 2 0.489u
.ends 1045_7447797250_2.5u
*******
.subckt 1045_7447797360_3.6u 1 2
Rp 1 2 3332
Cp 1 2 5.771p
Rs 1 N3 0.0108
L1 N3 2 1.383u
.ends 1045_7447797360_3.6u
*******
.subckt 1045_7447797470_4.7u 1 2
Rp 1 2 4483
Cp 1 2 4.902p
Rs 1 N3 0.0173
L1 N3 2 1.933u
.ends 1045_7447797470_4.7u
*******
.subckt 1045_7447797620_6.2u 1 2
Rp 1 2 5646
Cp 1 2 4.737p
Rs 1 N3 0.0198
L1 N3 2 2.478u
.ends 1045_7447797620_6.2u
*******
.subckt 1045_7447797820_8.2u 1 2
Rp 1 2 7211
Cp 1 2 6.259p
Rs 1 N3 0.0253
L1 N3 2 3.545u
.ends 1045_7447797820_8.2u
*******
.subckt 1064_7447798022_0.22u 1 2
Rp 1 2 497.338168
Cp 1 2 1.63832p
Rs 1 N3 0.0016
L1 N3 2 0.1543928u
.ends 1064_7447798022_0.22u
*******
.subckt 1064_7447798050_0.5u 1 2
Rp 1 2 1102.65017099
Cp 1 2 1.442523875p
Rs 1 N3 0.0022
L1 N3 2 0.409657939024u
.ends 1064_7447798050_0.5u
*******
.subckt 1064_7447798110_1.1u 1 2
Rp 1 2 913.7310025849
Cp 1 2 3.938084935p
Rs 1 N3 0.003
L1 N3 2 0.3981546581409u
.ends 1064_7447798110_1.1u
*******
.subckt 1064_7447798111_11u 1 2
Rp 1 2 6329.523789889
Cp 1 2 8.3389870965p
Rs 1 N3 0.014
L1 N3 2 4.498155554183u
.ends 1064_7447798111_11u
*******
.subckt 1064_7447798131_13u 1 2
Rp 1 2 8218.989016068
Cp 1 2 7.2783690849p
Rs 1 N3 0.0199
L1 N3 2 5.413875265997u
.ends 1064_7447798131_13u
*******
.subckt 1064_7447798151_15u 1 2
Rp 1 2 9416.195578389
Cp 1 2 7.5117084403p
Rs 1 N3 0.0218
L1 N3 2 6.852678019177u
.ends 1064_7447798151_15u
*******
.subckt 1064_7447798180_1.8u 1 2
Rp 1 2 1412.78025218
Cp 1 2 5.011541266p
Rs 1 N3 0.0038
L1 N3 2 0.612650483751u
.ends 1064_7447798180_1.8u
*******
.subckt 1064_7447798181_18u 1 2
Rp 1 2 10316.08307543
Cp 1 2 8.3391651708p
Rs 1 N3 0.0305
L1 N3 2 7.758277773986u
.ends 1064_7447798181_18u
*******
.subckt 1064_7447798221_22u 1 2
Rp 1 2 23646.39582884
Cp 1 2 3.6136581063p
Rs 1 N3 0.033
L1 N3 2 18.9555299645u
.ends 1064_7447798221_22u
*******
.subckt 1064_7447798241_24u 1 2
Rp 1 2 20839.84044435
Cp 1 2 3.6219463277p
Rs 1 N3 0.035
L1 N3 2 20.42523913023u
.ends 1064_7447798241_24u
*******
.subckt 1064_7447798250_2.5u 1 2
Rp 1 2 2021.771740546
Cp 1 2 5.7450252986p
Rs 1 N3 0.0044
L1 N3 2 0.9366024544953u
.ends 1064_7447798250_2.5u
*******
.subckt 1064_7447798271_27u 1 2
Rp 1 2 13298.95044049
Cp 1 2 8.2407890231p
Rs 1 N3 0.0376
L1 N3 2 11.07620259681u
.ends 1064_7447798271_27u
*******
.subckt 1064_7447798360_3.6u 1 2
Rp 1 2 5338.531151511
Cp 1 2 3.2232084365p
Rs 1 N3 0.00525
L1 N3 2 2.43570094658u
.ends 1064_7447798360_3.6u
*******
.subckt 1064_7447798470_4.7u 1 2
Rp 1 2 2960.5762934425
Cp 1 2 6.34866352225p
Rs 1 N3 0.0074
L1 N3 2 1.7266174181425u
.ends 1064_7447798470_4.7u
*******
.subckt 1064_7447798620_6.2u 1 2
Rp 1 2 3796.31592596143
Cp 1 2 6.53213127985714p
Rs 1 N3 0.0084
L1 N3 2 2.14765560350714u
.ends 1064_7447798620_6.2u
*******
.subckt 1064_7447798720_7.2u 1 2
Rp 1 2 4669.941679494
Cp 1 2 7.9060157648p
Rs 1 N3 0.0113
L1 N3 2 2.881274362062u
.ends 1064_7447798720_7.2u
*******
.subckt 1064_7447798910_9.1u 1 2
Rp 1 2 5198.487809543
Cp 1 2 7.1517874194p
Rs 1 N3 0.0127
L1 N3 2 3.373599165876u
.ends 1064_7447798910_9.1u
*******
